US08119795B2
2.10 Reaction of 2,4-dibenzyloxy-5-(N-methyl-N-propylsulfamoyl)benzoyl chloride with 2-chloroaniline gives the compound 2,4-dibenzyloxy-5-(N-methyl-N-propylsulfamoyl)-N-(2-chlorophenyl)benzamide.

reactant | 2,4-dibenzyloxy-5-(N-methyl-N-propylsulfamoyl)benzoyl chloride | C(C1=CC=CC=C1)OC1=C(C(=O)Cl)C=C(C(=C1)OCC1=CC=CC=C1)S(N(CCC)C)(=O)=O | C25H26ClNO5S
reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
product | 2,4-dibenzyloxy-5-(N-methyl-N-propylsulfamoyl)-N-(2-chlorophenyl)benzamide | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C=CC=C2)Cl)C=C(C(=C1)OCC1=CC=CC=C1)S(N(CCC)C)(=O)=O | C31H31ClN2O5S
